US06310095B1
N-Methyl-2-(1-cyclohexenyl)ethylamine
To a solution of 2-(1-cyclohexenyl)ethylamine (4.0 g) in 1,4-dioxane (40 mL) was added di-tert-butyldicarbonate (7.7 g). After gas evolution ceased (≈2 h) the reaction was concentrated. A portion of the residue (2 g) was dissolved in THF (10 mL) followed by addition of LiAlH4 (10 mL, 1M THF), which caused an exotherm. After 3 h, more LiAlH4 solution was added (4 mL), and the reaction was warmed to reflux. After 1 h, the reaction was cooled, and quenched cautiously with vigorous stirring by the addition of water (0.57 mL), 1M NaOH (0.6 mL), and more water (1.5 mL). The suspension was filtered through celite, which was washed with ether. The organic solution was concentrated to give the desired product as a volatile oil (0.8 g).

reactant | 2-(1-cyclohexenyl)ethylamine | 4.0 g | C1(=CCCCC1)CCN | C8H15N
reactant | di-tert-butyldicarbonate | 7.7 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | N-Methyl-2-(1-cyclohexenyl)ethylamine | 0.8 g | CNCCC1=CCCCC1 | C9H17N
